US08022062B2
1-(3-Chloro-propyl)-1,3-dihydro-indol-2-one
Reflux together oxindole (2.66 g, 20.0 mmol), 1-bromo-3-chloropropane (2.56 mL, 26.0 mmol) and potassium carbonate (5.52 g, 40.0 mmol) in acetonitrile (300 mL) under nitrogen for 16 h. Cool the suspension to room temperature and filter off the precipitate. Concentrate the filtrate in vacuo and purify the crude mixture by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 3:2 gradient over 40 min) to give the title compound as an orange oil (1.65 g, 39%). MS (ES+) m/z: 210 (M+H)+.

reactant | oxindole | 20.0 mmol, 2.66 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 1-bromo-3-chloropropane | 26.0 mmol, 2.56 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 40.0 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 1-(3-Chloro-propyl)-1,3-dihydro-indol-2-one | 1.65 g, 39% | ClCCCN1C(CC2=CC=CC=C12)=O | C11H12ClNO
